US09447074B2
Intermediate 67, 3-bromo-4-hydroxybenzamide
To a stirred solution of 3-bromo-4-hydroxybenzoic acid (0.5 g) and DMF (0.1 ml) in DCM (10 ml) was added dropwise oxalyl chloride (0.6 ml). After stirring for 2 h, ammonia gas was purged through. After completion of reaction by tlc, the solvent was removed under reduced pressure. The residue was dissolved in water and extracted with ethyl acetate. The organics were dried over sodium sulphate and concentrated in vacuo to yield the title compound, 0.18 g

reactant | 3-bromo-4-hydroxybenzoic acid | 0.5 g | BrC=1C=C(C(=O)O)C=CC1O | C7H5BrO3
reactant | DMF | 0.1 ml | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 0.6 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 3-bromo-4-hydroxybenzamide | BrC=1C=C(C(=O)N)C=CC1O | C7H6BrNO2
